US04328374
As the process being relatively good in selectivity is known the process of the U.S. Pat. No. 3,597,485. This process comprises oxidizing alkylbenzene in gas phase in the presence of mixed catalyst consisting of tungsten and molybdenum oxides and terephthalaldehyde is obtained in 40-60% yield by passing air containing about 1% of p-xylene over the catalyst heated at 475°-575° C. with the contact set at 0.1-0.2 seconds. In this process, however, difficulty lies in recovery of products since dilute xylene is oxidized. On top of that, sublimation and reduction of effective components of catalyst cause a great lowering of catalyst activity and it is difficult to use it on a commercial basis unless these problems are solved. As the process for the production of aromatic dialdehydes using bishalomethylbenzene as starting material there are known, for instance, a preparative process of being acted upon with urotropin, air oxidation process and process of oxidizing with pyridine-N-oxide, but either of these processes is low in yield, involving use of a great deal of secondary material, and it cannot be said a practical process. Of processes using bischloromethylbenzene as starting material it is those processes involving the using, as the oxidizing agent, of nitric acid that achieved relatively favorable results. The U.S. Pat. No. 2,948,756 or West German Pat. No. 1229061, for instance, is known. The U.S. Pat. No. 2,948,756 comprises oxidizing p-xylene dichloride (viz., α,α'-dichloro-p-xylene) with nitric acid in a concentration of 10-19% at temperatures of 102°-110° C., nitric acid being used in the amount of 2-50 mols per mole of p-xylene dichloride, and terephthalaldehyde is obtained in 30-70% yield. West German Pat. No. 1229061 is an improvement of the U.S. Pat. No. 2948756 and follows procedures of oxidizing halomethylbenzenes with dilute nitric acid in the presence of heavy metal compound catalyst and terephthalaldehyde is obtained in 70-87% yield. As mentioned above, of conventional techniques relatively favorable results are obtained with the process of oxidizing p-xylene dichloride with nitric acid, but even with this process difficulty lies in economically obtaining starting material xylene dichoride. That is, xylene dichloride is usually prepared by the chlorination reaction of xylene, but in that case, it is difficult to selectively synthesize xylene dichloride and products are obtained as mixtures with different chlorination degrees of compounds or isomers. It is relatively easy to separate xylene dichloride from this mixture by distillation, but it entails such drawbacks as to form α,α-dichloroxylene, an isomer of xylene dichloride, as by-product, during the chlorination reaction of xylene, the amount of α,α-dichloroxylene formed as by-product amounting to 0.25-0.35 parts by weight per part by weight of α,α'-dichloroxylene. As mentioned thus far, prior art techniques for the process for the production of aromatic dialdehydes entail various shortcomings.

reactant | xylene dichoride | [Cl-].[Cl-].C=1(C(=CC=CC1)C)C
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | α,α-dichloroxylene | ClC(C=1C(=CC=CC1)C)Cl | C8H8Cl2
